Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
tooth abscess
 
Major Surgical or Invasive Procedure:
# I&D by OMFS of dental abscess (___)

 
History of Present Illness:
___ is a ___ year old male with a self-reported 
history of bipolar disorder, and a medical history of 
bradycardia s/p pacemaker placement and diabetes, who presents 
to the ___ ED for worsening right tooth pain.

Psychiatry was immediately consulted for evaluation for possible 
psychosis and assistance with management and disposition. At 
this time, clinical presentation was most consistent with a 
decompensation of his bipolar disorder, current episode either 
mixed versus manic, with psychotic features. Patient also met 
criteria for cannabis use disorder. 

In the ED, the patient was also noted to have a right tooth 
abscess. Patient states that he has had broken teeth for a long 
time but has been unable to get them out for cardiac reasons 
patient states that one year ago had a pacemaker inserted and 
has needed and alert but is unable to do so. Patient states that 
all of a sudden tonight he noticed a large swelling from his 
tooth up into his cheek to the base of his eye he is concerned 
that he has an infection and may lose his eye. Patient also 
states that he's had neck pain over the last couple days with 
lightening type pain shooting down his arms. Denies fevers or 
chills, patient denies any purulent drainage into his mouth.  

In the ED, initial vitals were:  98.2 89 160/99 16 97% RA  
- CT Maxillofacial showed subperiosteal abscess right ___ tooth 
6.  
- The patient was given IV clindamycin  
- OMFS evaluated the patient and will drain on the floor.  
- Psych evaled the patient and will treat for acute 
mania/psychosis  
- Patient placed on ___.  

Upon arrival to the floor, the patient has pressured speech 
jumps from one idea to another. still complains of pain in the 
right side of the mouth and face. 

ROS: Per HPI, otherwise negative. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Diagnoses: bipolar disorder
- Hospitalizations: denies
- Current treaters and treatment: therapist: Dr. ___ in
___. No psychiatrist. States he has been in therapy 
since
age ___. "I knew ___ and humanism, I'm a remarkable
person."
- Medication and ECT trials: "I've tried them all, they're
nothing but side effects." States he has tried lithium and
Depakote in the past. Currently on gabapentin "for my neurons."
Not currently taking any antipsychotics or mood stabilizers
- Self-injury: Denies
- Harm to others: Denies
- Access to weapons: Denies

PAST MEDICAL HISTORY:
Diabetes, on metformin
Bradycardia, s/p pacemaker placement approx. ___ year ago
Reports that he thinks he has had "several small strokes" over
the past year, further explaining that he has had "several
transient episodes where my behavior and sensory systems are 
off,
then goes back to normal."
 
Social History:
SUBSTANCE ABUSE HISTORY:
- EtOH: Denies any use.  States that "my wife thought I had a
problem with alcohol," and "I stopped in the ___ States he
participated in AA many years ago.
- Tobacco: Denies, states he is a former smoker
- Marijuana: Smokes daily, states "it's the only thing that
helps…the magic comes back"
Denies any illicit drug use

FORENSIC HISTORY:
- Arrests: denies
- Convictions and jail terms: denies
- Current status (pending charges, probation, parole): NA

FAMILY PSYCHIATRIC HISTORY:
- Completed or attempted suicide: denies
- Substance use or dependence: denies
- Mental Illness: "my mother went insane"

SOCIAL HISTORY:
___
Family History:
Mother with mental illness  
 
Physical Exam:
Admission Physical Exam:
===========================
Head: Atraumatic, normocephalic
Ears, Eyes, Nose: No gross changes
Neck: Supple, no lesions or swellings
EOE: Middle right face swelling with erythema from right 
external
nare to below lower lid
IOE: grossly carious dentition, missing tooth #4 with gingival
and bony defect, carious #5, fluctuant palpable lesion right
maxillary gingival/bony defect noted in that area
Extremities: No defect noted

Psych exam:
Neurological:
 *station and gait: normal stance, no truncal ataxia, steady 
gait
 *tone and strength: moves all 4 extremities spontaneously and
against gravity
 cranial nerves: II-XII intact
 abnormal movements: no tremor or abnormal posturing, no
asterixis
 tremulousness: none present
Cognition:
 Wakefulness/alertness: Tired but overall awake and alert
 *Attention (digit span, MOYB): Unable to perform MOYB. 
Performed
DOWB easily.
 *Orientation: oriented to person, time, place, situation
 Executive function (go-no go, Luria, trails, FAS): not assessed
 *Memory: ___ registry, ___ recall after 5 minutes
 *Fund of knowledge: able to name current ___ President only
 Calculations: $1.75 = "7 quarters"
 Abstraction: apple/orange = "fruits"
 *Speech: pressured rate, intermittently shouting, normal tone
and prosody
 *Language: native ___ speaker, fluent with no paraphasic
errors, appropriate to conversation

Mental Status:
 *Appearance: Somewhat disheveled man in no apparent distress,
appears stated age, poor dentition, hospital gown is barely
covering his chest, lying in bed
 Behavior:  Irritable at times and very difficult to redirect,
but cooperative with interview, engaged, appropriate eye 
contact,
orients to interviewer, no abnormal posturing, no psychomotor
agitation or retardation
 *Mood / Affect: "Very sad" / reactive, irritable at times,
somewhat expansive, not congruent with mood
 *Thought process / *associations: Disorganized, tangential,
bordering flight of ideas, very difficult to redirect
 *Thought Content: Denies SI/HI/AH/VH. Perseverative on tooth
pain, reporting "electric shocks" throughout body and concern
that his blood may be "poisoned." Does not appear to be
responding to internal stimuli
 *Judgment: Poor
*Insight: Poor
 
Pertinent Results:
Admission Labs:
=====================
___ 02:15AM BLOOD WBC-11.8*# RBC-4.04* Hgb-13.8 Hct-37.4*# 
MCV-93 MCH-34.2* MCHC-36.9 RDW-11.5 RDWSD-39.0 Plt ___
___ 02:15AM BLOOD Neuts-65.0 ___ Monos-6.9 Eos-3.6 
Baso-0.6 Im ___ AbsNeut-7.67* AbsLymp-2.76 AbsMono-0.82* 
AbsEos-0.43 AbsBaso-0.07
___ 02:15AM BLOOD Glucose-141* UreaN-16 Creat-0.6 Na-137 
K-3.8 Cl-99 HCO3-27 AnGap-15
___ 02:35AM BLOOD Lactate-1.3

URINE:
==============
___ 02:23AM URINE Color-Yellow Appear-Clear Sp ___
___ 02:23AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 02:23AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

MICRO:
==============
# Blood Cx (x2): pending

IMAGING:
==============
# CT Maxillary sinus (___): Multiple periapical lucencies 
as noted above. The most significant periapical lucency involves 
___ tooth 6, and there is an adjacent subperiosteal abscess 
measuring 3.0 x 0.8 cm, with the resultant inflammation 
extending superiorly towards but not involving the right orbit. 
 
Brief Hospital Course:
___ year old male with bipolar disorder, bradycardia s/p 
pacemaker placement, diabetes, who presents with subperiosteal 
abscess and concern for acute mania.

ACTIVE ISSUES:
=================  
# Subperiosteal Abscess: Drained by OMFS while admitted. Packed 
with wick. Plan for removal of wick at ___ Oral Surgery clinic 
in ___ days. Patient was given the number for the clinic. He was 
treated with Clindamycin while admitted and was transitioned to 
Augmentin at the time of discharge to complete a 7 day course. 

# Mania: Patient has a known history of psychiatric issues. Was 
seen by inpatient psych who felt that he was initially a danger 
to himself, but on repeat evaluation, and upon speaking with his 
outpatient psychiatrist, Dr. ___, this was changed and he 
was discharged with close followup. 
 
Transitional Issues:
=====================
# Needs to complete course of Augmentin (to end on ___ 
___
# Needs to f/u with his psychiatrist (Dr. ___ tomorrow at 
11:30
# We will try to set him up with a PCP appointment at ___
# Needs to have oral surgery follow-up at ___. Patient will need 
to call ___ to schedule an appointment. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Gabapentin 1200 mg PO TID 
3. Lisinopril 2.5 mg PO DAILY 

 
Discharge Medications:
1. Gabapentin 1200 mg PO TID 
2. Lisinopril 2.5 mg PO DAILY 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 6 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet by mouth 
twice a day Disp #*11 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Tooth abscess, bipolar disorder

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

It was a pleasure taking care of you at ___. You were admitted 
with ___ with a tooth abscess, which was drained by our oral 
surgeons. You were treated with antibiotics which you should 
continue for a total of 7 days. You will need to have your tooth 
evaluated early this week. You will need to call to schedule an 
appointment (___). You should also follow-up with your 
psychiatrist. We are going to try to set up a PCP appointment 
for you. 

Regards, 
Your ___ Team

 
Followup Instructions:
___